US06034275
A solution of 5.4 g of 2,3,5,6-tetrafluoro-anisole in 80 ml of absolute THF is cooled to -78° C. and treated with 20.6 ml of 1.6M butyllithium in hexane within 15 min. After 20 min. 7.4 g of 4-bromo-N-methoxy-N-methylbenzamide (prepared from 4-bromo-benzoyl chloride and N,O-dimethylhydoxylamine.hydrochloride with N-methylmorpholine as the base) in 10 ml of THF are added dropwise and the mixture is stirred at -78° C. for 2 hrs. The reaction solution is poured into cold 10% potassium hydrogen sulphate solution/ethyl acetate and the organic phase is washed with water and 10% sodium chloride solution and dried. After crystallization from cyclohexane there are obtained 5.8 g of (4-bromo-phenyl)-(2,3,5,6-tetrafluoro-4-methoxy-phenyl)-methanone, m.p. 80-82° C.

reactant | 2,3,5,6-tetrafluoro-anisole | 5.4 g | FC1=C(C(=C(C=C1F)F)F)OC | C7H4F4O
reactant | butyllithium | 1.6M, 20.6 ml | C(CCC)[Li]
reactant | 4-bromo-N-methoxy-N-methylbenzamide | 7.4 g | BrC1=CC=C(C(=O)N(C)OC)C=C1 | C9H10BrNO2
reactant | 4-bromo-benzoyl chloride | BrC1=CC=C(C(=O)Cl)C=C1 | C7H4BrClO
reactant | N,O-dimethylhydoxylamine.hydrochloride | Cl.CNOC
reactant | N-methylmorpholine | CN1CCOCC1 | C5H11NO
reactant | potassium hydrogen sulphate | S(=O)(=O)(O)[O-].[K+]
solvent | THF | 80 ml | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (4-bromo-phenyl)-(2,3,5,6-tetrafluoro-4-methoxy-phenyl)-methanone | 5.8 g | BrC1=CC=C(C=C1)C(=O)C1=C(C(=C(C(=C1F)F)OC)F)F | C14H7BrF4O2
